US07220769B2
4-(5,6-Dichlorobenzimidazol-2-yl)-N-(1,2,2,6,6-pentamethylpiperidin-4-yl)benzamide
A mixture of 5,6-dichloro-2-(4-carboxyphenyl)benzimidazole (0.3 g, 0.9 mmol) prepared as described in Preparation 8, 1-hydroxybenzotriazole (0.145 g, 1.08 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.207 g, 1.08 mmol) in THF (10 ml) was heated at 35–40° C. for 1 h. 1,2,2,6,6,-Pentamethyl-4-aminopiperidine in THF (2 ml) was added dropwise and the reaction was refluxed for 1 h. After cooling to room temperature, the solvent was removed under reduced pressure and the residue was treated with 2N NaOH (5 ml). The solid was filtered, washed with water and dried at 50° C. under vacuum. The solid was suspended in isopropyl alcohol and stirred for half an hour, filtered and dried to give 91 mg of the title compound (yield 22%) as an yellow powder, mp>280° C.

reactant | 5,6-dichloro-2-(4-carboxyphenyl)benzimidazole | 0.9 mmol, 0.3 g | ClC1=CC2=C(N=C(N2)C2=CC=C(C=C2)C(=O)O)C=C1Cl | C14H8Cl2N2O2
reactant | 1-hydroxybenzotriazole | 1.08 mmol, 0.145 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 1.08 mmol, 0.207 g | Cl.CN(CCCN=C=NCC)C
reactant | 1,2,2,6,6,-Pentamethyl-4-aminopiperidine | CN1C(CC(CC1(C)C)N)(C)C | C10H22N2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-(5,6-Dichlorobenzimidazol-2-yl)-N-(1,2,2,6,6-pentamethylpiperidin-4-yl)benzamide | 91 mg, yield 22% | ClC1=CC2=C(N=C(N2)C2=CC=C(C(=O)NC3CC(N(C(C3)(C)C)C)(C)C)C=C2)C=C1Cl | C24H28Cl2N4O
